US06420364B1
(b) N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-(3-diethylamino-carbonyl-thioureido)-propionamide
A solution of 2-amino-N-(-4-cyano-1-propyl-piperidin-4-yl)-3-cyclohexylpropionamide bis hydrochloride salt (560 mg, 1.53 mmol) and triethylamine (500 μL, 3.59 mmol) in acetonitrile (4 mL) was treated with a solution of N,N-diethyl carbamoyl thiocyanate in acetonitrile (3.0 mL, 2.7 mmol). The reaction mixture was stirred overnight at room temperature and concentrated on a rotary evaporator. The resulting residue was chromatographed (ethyl acetate: hexanes 1:1 then ethyl acetate and finally methanol: methylene chloride 1:9 as the eluant) to provide the desired product as a light yellow solid (340 mg, 49%). MS, m/z 451.3=M+1.

reactant | 2-amino-N-(-4-cyano-1-propyl-piperidin-4-yl)-3-cyclohexylpropionamide bis hydrochloride salt | 1.53 mmol, 560 mg | Cl.Cl.NC(C(=O)NC1(CCN(CC1)CCC)C#N)CC1CCCCC1
reactant | triethylamine | 3.59 mmol, 500 μL | C(C)N(CC)CC | C6H15N
reactant | N,N-diethyl carbamoyl thiocyanate | C(C)N(C(=O)SC#N)CC | C6H10N2OS
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2.7 mmol, 3.0 mL | C(C)#N | C2H3N
product | N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-(3-diethylamino-carbonyl-thioureido)-propionamide | 340 mg, 49% | C(#N)C1(CCN(CC1)C)NC(C(CC1CCCCC1)NC(=S=C=O)NN(CC)CC)=O | C22H38N6O2S
